US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxybenzoxazol-2-yl)methyl]homopiperazine:
2-Chloromethyl-5,6,7-trimethoxybenzoxazole (152 mg) and homopiperazine (28 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxybenzoxazole | 152 mg | ClCC=1OC2=C(N1)C=C(C(=C2OC)OC)OC | C11H12ClNO4
reactant | homopiperazine | 28 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(5,6,7-trimethoxybenzoxazol-2-yl)methyl]homopiperazine | COC=1C(=C(C2=C(N=C(O2)CN2CCN(CCC2)CC=2OC3=C(N2)C=C(C(=C3OC)OC)OC)C1)OC)OC | C27H34N4O8
